US04803218
N-[3-(Cyanomethyl)-1H-indol-5-yl]-N',N'-dimethyurea:
To a solution of 7.0 g (0.041 mole) of 5-aminoindole-3-acetonitrile and 5.7 ml (0.041 mole) of Et3N in 100 ml of abs EtOH, under N2, was added 3.78 ml of dimethylcarbamyl chloride (0.041 mole). The reaction was stirred at room temperature for 24 hours. The solvent was removed in vacuo to yield a black goo (7.5 g). It was purified by dry column chromatography. Eluting it with ethylacetate first and then with 5% MeOH in EtOAc to give 3.5 g of brown solid. It was charcoaled to remove the color (MeOH as solvent). Removal of solvent gave 1.4 g of white product.

reactant | 5-aminoindole-3-acetonitrile | 0.041 mole, 7.0 g | NC=1C=C2C(=CNC2=CC1)CC#N | C10H9N3
reactant | Et3N | 0.041 mole, 5.7 ml | CCN(CC)CC | C6H15N
reactant | dimethylcarbamyl chloride | 0.041 mole, 3.78 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | EtOH | CCO | C2H6O
product | N-[3-(Cyanomethyl)-1H-indol-5-yl]-N',N'-dimethyurea | 3.5 g | C(#N)CC1=CNC2=CC=C(C=C12)NC(=O)N(C)C | C13H14N4O
